US04939144
3,4-Dihydro-2-[(2-methyl-1H-imidazol-1-yl)methyl]-1(2H)-dibenzofuranone hydrochloride
A stirred mixture of 2-[(dimethylamino)methyl]-3,4-dihydro-1(2H)-dibenzofuranone hydrochloride (1.00 g), 2-methylimidazole (1.47 g) and water (25 ml) was heated under reflux for 20 h. The cooled mixture was acidified to pH 1 with aqueous 2M hydrochloric acid and extracted with ethyl acetate (2×50 ml; discarded). The aqueous layer was basified to pH 8 with aqueous saturated sodium bicarbonate, extracted with ethyl acetate (5×40 ml), and the combined organic extracts were washed with water (50 ml). The organic layer was dried and evaporated, and the residue was crystallised from ethyl acetate to give the free base of the title compound (176 mg). Evaporation of the mother liquors afforded a further quantity of the free base of the title compound (370 mg). A portion of this solid (166 mg) was treated with ethyl acetate (40 ml), filtered, and concentrated to ca. 10 ml. The solution was acidified to pH 1 by the addition of ethanolic hydrogen chloride, and the precipitate was collected to give the title compound (171 mg), m.p. 217°-222°.

reactant | 2-[(dimethylamino)methyl]-3,4-dihydro-1(2H)-dibenzofuranone hydrochloride | 1.00 g | Cl.CN(C)CC1C(C2=C(OC3=C2C=CC=C3)CC1)=O
reactant | 2-methylimidazole | 1.47 g | CC=1NC=CN1 | C4H6N2
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | water | 25 ml | O | H2O
product | 3,4-Dihydro-2-[(2-methyl-1H-imidazol-1-yl)methyl]-1(2H)-dibenzofuranone hydrochloride | 176 mg | Cl.CC=1N(C=CN1)CC1C(C2=C(OC3=C2C=CC=C3)CC1)=O | InChI=1S/C17H16N2O2.ClH/c1-11-18-8-9-19(11)10-12-6-7-15-16(17(12)20)13-4-2-3-5-14(13)21-15;/h2-5,8-9,12H,6-7,10H2,1H3;1H
